US04041026
To a mixture of 5-methoxy-7-nitro-5-phenyl-1,5-dihydro-2H-1,4-benzodiazepin-2-one (920 mg) and dry dimethylformamide (8 ml), sodium hydride (50% suspension in a mineral oil; 156 mg) is added under cooling at -30° C. for 15 minutes. Methyl iodide (842 mg) is added to the mixture, which is stirred at room temperature for 10 minutes. The reaction mixture is poured into icy water, and shaken with diethyl ether. The organic layer is dried over sodium sulfate and evaporated to remove the solvent. The residue is recrystallized from methylene chloride/isopropyl ether to give 5-methoxy-1methyl-7-nitro-5-phenyl-1,5-dihydro-2H-1,4-benzodiazepin-2-one (708 mg) as fine prisms melting at 163 to 164° C.

reactant | 5-methoxy-7-nitro-5-phenyl-1,5-dihydro-2H-1,4-benzodiazepin-2-one | 920 mg | COC1(N=CC(NC2=C1C=C(C=C2)[N+](=O)[O-])=O)C2=CC=CC=C2 | C16H13N3O4
reactant | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | Methyl iodide | 842 mg | CI | CH3I
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 5-methoxy-1methyl-7-nitro-5-phenyl-1,5-dihydro-2H-1,4-benzodiazepin-2-one | 708 mg | COC1(N=CC(N(C2=C1C=C(C=C2)[N+](=O)[O-])C)=O)C2=CC=CC=C2 | C17H15N3O4
